US09416101B2
3-(chlorosulfonyl)benzoic acid (2.0 g, 9.1 mmol) was treated with was treated with indoline (2.7 g, 22.7 mmol) using method A to give 3-(indolin-1-ylsulfonyl)benzoic acid as a light purple solid. Yield: 1.6 g (58%). 1H-NMR: 8.23 (t, J=1.5 Hz, 1H), 8.19 (dt, J=8.0, 1.5, 1.5 Hz, 1H), 8.04 (ddd, J=8.0, 2.0, 1.0 Hz, 1H), 7.71 (t, J=8.0 Hz, 1H), 7.49 (d, J=8.0 Hz, 1H), 7.21 (t, J=8.0 Hz, 1H), 7.16 (d, J=7.5 Hz, 1H), 6.99 (dt, J=7.5, 7.5, 1.0 Hz, 1H), 3.92 (t, J=8.5 Hz, 2H), 2.90 (t, J=8.5 Hz, 2H)

reactant | 3-(chlorosulfonyl)benzoic acid | 9.1 mmol, 2.0 g | ClS(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C7H5ClO4S
reactant | indoline | 22.7 mmol, 2.7 g | N1CCC2=CC=CC=C12 | C8H9N
product | 3-(indolin-1-ylsulfonyl)benzoic acid | N1(CCC2=CC=CC=C12)S(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C15H13NO4S
